*  home ameya esim-workspace 10bb 10bb.cir

.include swi.sub
r6   vdd net-_r6-pad2_ 1k
r8  net-_r6-pad2_ net-_r7-pad1_ 1k
r7  net-_r7-pad1_ net-_r14-pad1_ 1k
r5  net-_r14-pad1_ gnd 1k
v1  vdd gnd  dc 3.3
v2  d0 gnd pulse(0 1.8 0 50p 50p 10n 20n)
v3  d1 gnd pulse(0 1.8 1n 50p 50p 10n 20n)
x2 d0  vdd gnd net-_r7-pad1_ net-_r6-pad2_ net-_x2-pad6_ swi
x4 d0  vdd gnd net-_r14-pad1_ net-_r7-pad1_ net-_x4-pad6_ swi
x6 d1  vdd gnd net-_x4-pad6_ net-_x2-pad6_  o1 swi
* u2   o1 plot_v1
v4  d2 gnd pulse(0 1.8 2n 50p 50p 10n 20n)
v5  d3 gnd pulse(0 1.8 3n 50p 50p 10n 20n)
v6  d4 gnd pulse(0 1.8 4n 50p 50p 10n 20n)
v7  d5 gnd pulse(0 1.8 5n 50p 50p 10n 20n)
v8  d6 gnd pulse(0 1.8 6n 50p 50p 10n 20n)
v9  d7 gnd pulse(0 1.8 7n 50p 50p 10n 20n)
v10  d8 gnd pulse(0 1.8 8n 50p 50p 10n 20n)
v11  d9 gnd pulse(0 1.8 9n 50p 50p 10u 20u)
r14  net-_r14-pad1_ net-_r14-pad2_ 1k
r16  net-_r14-pad2_ net-_r15-pad1_ 1k
r15  net-_r15-pad1_ net-_r13-pad1_ 1k
r13  net-_r13-pad1_ gnd 1k
x9 d2  vdd gnd net-_r13-pad1_ net-_r15-pad1_ net-_x12-pad4_ swi
x10 d2  vdd gnd net-_r15-pad1_ net-_r14-pad2_ net-_x10-pad6_ swi
x12 d3  vdd gnd net-_x12-pad4_ net-_x10-pad6_  o2 swi
* u4   o2 plot_v1
r18  net-_r17-pad1_ net-_r18-pad2_ 1k
r20  net-_r18-pad2_ net-_r19-pad1_ 1k
r19  net-_r19-pad1_ net-_r13-pad1_ 1k
r17  net-_r17-pad1_ gnd 1k
x13 d4  vdd gnd net-_r17-pad1_ net-_r18-pad2_ net-_x13-pad6_ swi
x14 d4  vdd gnd net-_r18-pad2_ net-_r19-pad1_ net-_x14-pad6_ swi
x15 d5  vdd gnd net-_x13-pad6_ net-_x14-pad6_  o3 swi
* u5   o3 plot_v1
r2  net-_r17-pad1_ net-_r2-pad2_ 1k
r4  net-_r2-pad2_ net-_r3-pad1_ 1k
r3  net-_r3-pad1_ net-_r1-pad1_ 1k
r1  net-_r1-pad1_ gnd 1k
x1 d6  vdd gnd net-_r1-pad1_ net-_r3-pad1_ net-_x1-pad6_ swi
x3 d6  vdd gnd net-_r3-pad1_ net-_r2-pad2_ net-_x3-pad6_ swi
x5 d7  vdd gnd net-_x1-pad6_ net-_x3-pad6_  o4 swi
* u1   o4 plot_v1
r10  net-_r1-pad1_ net-_r10-pad2_ 1k
r12  net-_r10-pad2_ net-_r11-pad1_ 1k
r11  net-_r11-pad1_ net-_r11-pad2_ 1k
r9  net-_r11-pad2_ gnd 1k
x7 d8  vdd gnd net-_r11-pad2_ net-_r11-pad1_ net-_x11-pad4_ swi
x8 d8  vdd gnd net-_r11-pad1_ net-_r10-pad2_ net-_x11-pad5_ swi
x11 d9  vdd gnd net-_x11-pad4_ net-_x11-pad5_  o5 swi
* u3   o5 plot_v1
.tran 1e-09 30e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot o1+o2+o3+o4+o5 d0 d1 d2 d3 d4 d5 d6 d7 d8 d9
plot o1+o2+o3+o4+o5
.endc
.end
